US06482829B2
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-(3-dimethylamino-propyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one
The title compound, MS: m/e=556.2 (M+H+), was prepared in accordance with the general method of example 99 from (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one and 3-dimethylamino-1-propyl chloride.

reactant | (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | FC(C=1C=C(C(=O)N2CCC3(C(CNC3=O)C3=CC=CC=C3)CC2)C=C(C1)C(F)(F)F)(F)F | C23H20F6N2O2
reactant | 3-dimethylamino-1-propyl chloride | CN(CCCCl)C | C5H12ClN
product | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-(3-dimethylamino-propyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | FC(C=1C=C(C(=O)N2CCC3(C(CN(C3=O)CCCN(C)C)C3=CC=CC=C3)CC2)C=C(C1)C(F)(F)F)(F)F | C28H31F6N3O2
